US08981085B2
4-Fluoro-1-(tri isopropyl silyl)-1H-pyrrolo[2,3-b]pyridine (28.0 g, 95.7 mmol) in THF (600 mL) at −78° C. was treated dropwise with sec-butyllithium (150 mL, 211 mmol; 1.4M in cyclohexane). The reaction was stirred at −78° C. for 30 minutes. Perbromomethane (79.4 g, 239 mmol) in THF (100 mL) was then added dropwise. The reaction was stirred at −78° C. for 1 hour and then quenched with saturated aqueous NH4Cl. The aqueous phase was extracted with hexanes. The combined organic phases were dried (MgSO4) and concentrated in vacuo. The oil obtained was purified by flash chromatography on silica gel eluting with hexanes to provide 5-bromo-4-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (30 g, 84% yield) as an oil, which solidified upon standing. 1H NMR (400 MHz, CDCl3) δ 8.28 (d, 1H), 7.26 (s, 1H), 6.62 (d, 1H), 1.86-1.78 (m, 3H), 1.11 (d, 18H).

reactant | 4-Fluoro-1-(tri isopropyl silyl)-1H-pyrrolo[2,3-b]pyridine | 95.7 mmol, 28.0 g | FC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25FN2Si
reactant | sec-butyllithium | 211 mmol, 1.4M, 150 mL | C(C)(CC)[Li]
reactant | Perbromomethane | 239 mmol, 79.4 g | BrC(Br)(Br)Br | CBr4
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-bromo-4-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 30 g, 84% yield | BrC=1C(=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)F | C16H24BrFN2Si
